US06603008B1
5-{4-Ethyl-5-[4-(1,3-thiazol-4-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide (Step 5)
The title compound was prepared according to the procedure of step 3 in the Example 4 using 5-[5-(4-bromophenyl)-4-ethyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide, instead of 5-[5-(4-bromophenyl)-4-chloro-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide.

reactant | 5-[5-(4-bromophenyl)-4-ethyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide | BrC1=CC=C(C=C1)C1=C(C(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F)CC | C17H14BrF3N4O2S
reactant | 5-[5-(4-bromophenyl)-4-chloro-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide | BrC1=CC=C(C=C1)C1=C(C(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F)Cl | C15H9BrClF3N4O2S
product | 5-{4-Ethyl-5-[4-(1,3-thiazol-4-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide | C(C)C=1C(=NN(C1C1=CC=C(C=C1)C=1N=CSC1)C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | C20H16F3N5O2S2
